US05585364
4-(methylsulphonyl)phenol.
To a solution of 4-(methylthio)phenol (7.0 g. 0.05 mol) in 30% aqueous methanol (100 ml) at 0° C. is added a solution of sodium periodate (10.7 g, 0.05 mmol) and the resulting suspension is stirred for 30 min. Water (500 ml) is then added and the precipitate removed by filtration. The filtrate is cooled to 4° C. and a further portion of sodium periodate (10.7 g, 0.05 mmol) added and the resulting suspension stirred for 48 h when a further portion of sodium periodate (5.35 g, 0.025 mmol) is added. After stirring for a further 18 h, the precipitate is removed by filtration, the filtrate extracted with ether which is evaporated to dryness and the residue is purified on a silica column using chloroform methanol, 9:1, as eluent to give the title compound (2.75 g, 32% yield).

reactant | 4-(methylthio)phenol | 0.05 mol, 7.0 g | CSC1=CC=C(C=C1)O | C7H8OS
reactant | sodium periodate | 0.05 mmol, 10.7 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | Water | 500 ml | O | H2O
reactant | sodium periodate | 0.05 mmol, 10.7 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium periodate | 0.025 mmol, 5.35 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 4-(methylsulphonyl)phenol | 2.75 g, 32% yield | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
